US05380746
2-(1H-Indol-3-yl)-3-(1-methyl-1H-indol-3-yl)maleinimide
The 2-bromo-3-(1H-indol-3-yl)-maleinimide used as starting material is prepared as follows: A solution of 49.3 mmol ethyl magnesium bromide in 30 ml tetrahydrofuran is mixed with a solution of 5.8 g (49.5 mmol) indole in 50 ml toluene. The reaction mixture is stirred for 1 hour at ambient temperature, a solution of 2.5 g (9.8 mmol) dibromomaleinimide in 20 ml tetrahydrofuran/50 ml toluene is then slowly added dropwise thereto and heated under reflux for 30 hours. After cooling, the reaction mixture is decomposed with a saturated aqueous solution of ammonium chloride, the products are extracted with ethyl acetate and the organic phase is subsequently dried over anhydrous sodium sulphate. After evaporation, the red residue obtained is triturated with a little dichloromethane, filtered off with suction and dried in a vacuum at 0.1 Torr and 70° C. There are obtained 2.2 g (75% of theory) of orange-coloured product; m.p. 196° C.; RF=0.35 (hexane/ethyl acetate 1:1 v/v).

reactant | 2-bromo-3-(1H-indol-3-yl)-maleinimide | BrC=1C(=O)NC(C1C1=CNC2=CC=CC=C12)=O | C12H7BrN2O2
reactant | ethyl magnesium bromide | 49.3 mmol | C(C)[Mg]Br
reactant | indole | 49.5 mmol, 5.8 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | dibromomaleinimide | 9.8 mmol, 2.5 g | BrC1=C(C(=O)NC1=O)Br | C4HBr2NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(1H-Indol-3-yl)-3-(1-methyl-1H-indol-3-yl)maleinimide | N1C=C(C2=CC=CC=C12)C=1C(=O)NC(C1C1=CN(C2=CC=CC=C12)C)=O | C21H15N3O2
